US05185351
(vi) (E)-3-[[2-n-butyl-1-((4-carboxynaphth-1-yl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methylpropenoic acid
A slurry containing 14.46 g (26.14 mmol) of methyl(E)-3-[2-n-butyl-1-{(4-carbomethoxynaphth-1-yl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate, 8.38 g (2.09 mmol) of potassium hydroxide in a mixture of 165 mL of ethanol and 85 mL of water was stirred at ambient temperature for 18 hours. Concentration under vacuum and dilution with water gave 400 mL of a clear solution. Adjustment of the pH to 4.03 with hydrochloric acid gave crystals which when recrystallized from methanol gave 9.89 g (80%) of colorless crystals; mp 218°-219° C. as a partial hydrate.

reactant | methyl(E)-3-[2-n-butyl-1-{(4-carbomethoxynaphth-1-yl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | 26.14 mmol, 14.46 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C29H30N2O4S
reactant | potassium hydroxide | 2.09 mmol, 8.38 g | [OH-].[K+]
solvent | ethanol | 165 mL | C(C)O | C2H6O
solvent | water | 85 mL | O | H2O
product | [2-n-butyl-1-((4-carboxynaphth-1-yl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methylpropenoic acid | 400 mL | C(CCC)C=1N(C(=CN1)C=C(C(=O)O)CC=1SC=CC1)CC1=CC=C(C2=CC=CC=C12)C(=O)O | C27H26N2O4S
